US08049006B2
tert-butyl [4-(1-aminopropyl)phenyl]acetate Hydrochloride (Compound S186)
To tert-butyl(4-propionylphenyl)acetate (1 g) in ethanol (20 ml) solution, sodium acetate (0.7 g) and hydroxylamine hydrochloride (0.44 g) were added and the mixture was stirred at 90° C. for 3 hours. Distilled water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated saline, dried over with anhydrous sodium sulfate, then concentrated. Ethanol (22 ml) and 10% palladium carbon (0.6 g) were added to the residue, and the mixture was stirred under hydrogen atmosphere at 5 atm for 40 hours. The insoluble compound was filtered out, then a 4N hydrochloric acid/ethyl acetate solution was added to the filtrate and the mixture concentrated. Hexane/ethyl acetate was added to the residue, and the precipitated solid was collected by filtration to obtain the title compound (0.74 g).

reactant | tert-butyl(4-propionylphenyl)acetate | 1 g | C(C)(C)(C)OC(CC1=CC=C(C=C1)C(CC)=O)=O | C15H20O3
reactant | sodium acetate | 0.7 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 0.44 g | Cl.NO
reactant | water | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | tert-butyl [4-(1-aminopropyl)phenyl]acetate Hydrochloride | 0.74 g | Cl.NC(CC)C1=CC=C(C=C1)CC(=O)OC(C)(C)C | InChI=1S/C15H23NO2.ClH/c1-5-13(16)12-8-6-11(7-9-12)10-14(17)18-15(2,3)4;/h6-9,13H,5,10,16H2,1-4H3;1H
